US07476665B2
Step B. 3-(2-Methansulfonyloxyethyl)-2-nitropyridine
Methane sulfonyl chloride (0.16 mL, 2.14 mmol) was added to a solution of 3-(2-hydroxyethyl)-2-nitropyridine (0.300 g, 1.78 mmol) and triethylamine (0.37 mL, 2.67 mmol) in methylene chloride (5 mL) at 0° C. under argon. After 1 h the reaction was worked up with saturated sodium bicarbonate and methylene chloride, and the organic phase dried over sodium sulfate and concentrated to give the title compound MS 247 (M+1).

reactant | Methane sulfonyl chloride | 2.14 mmol, 0.16 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(2-hydroxyethyl)-2-nitropyridine | 1.78 mmol, 0.300 g | OCCC=1C(=NC=CC1)[N+](=O)[O-] | C7H8N2O3
reactant | triethylamine | 2.67 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Methansulfonyloxyethyl)-2-nitropyridine | CS(=O)(=O)OCCC=1C(=NC=CC1)[N+](=O)[O-] | C8H10N2O5S
